US05773463
(±)cis-1-[(4-Phenoxy)phenoxy]-2-methylaminoindane Hydrochloride (E17)
The title compound was prepared in a similar manner to Example 12 from LiAlH4 (760 mg, 20 mmol), (±)cis-1-[(4-phenoxy)phenoxy]-2-tert-butoxycarbonylaminoindane (1.39 mg, 3.3 mmol) and tetrahydrofuran (40 ml). After a reaction time of 3 h the reaction was worked up as previously described and subjected to column chromatography on silica gel eluting with 2% ethanol in chloroform to afford a pale pink oil (951 mg) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. 188°-190° C. (from methanol-diethyl ether).

reactant | LiAlH4 | 20 mmol, 760 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±)cis-1-[(4-phenoxy)phenoxy]-2-tert-butoxycarbonylaminoindane | 3.3 mmol, 1.39 mg | O(C1=CC=CC=C1)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=C1 | C26H27NO4
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | ethanol | C(C)O | C2H6O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (±)cis-1-[(4-Phenoxy)phenoxy]-2-methylaminoindane Hydrochloride | Cl.O(C1=CC=CC=C1)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC)C=C1 | InChI=1S/C22H21NO2.ClH/c1-23-21-15-16-7-5-6-10-20(16)22(21)25-19-13-11-18(12-14-19)24-17-8-3-2-4-9-17;/h2-14,21-23H,15H2,1H3;1H/t21-,22+;/m0./s1
